US09382356B2
(ii) Synthesis of di-2-naphthyl(cyclopentadienyl)(octamethyloctahydrodibenzofluorenyl)methane
A 200-ml two-necked flask equipped with a magnetic stirrer, a three-way cock and a 100-ml dropping funnel was thoroughly purged with nitrogen, and sequentially charged with 1.35 g (3.48 mmol) of octamethyloctahydrodibenzofluorene and 40 mL of tetrahydrofuran. Then, 2.30 ml (3.60 mmol) of a 1.58 mol/l n-butyllithium/hexane solution was gradually added while cooling the mixture in an ice water bath, and then the mixture was stirred at room temperature for 20 hours under a nitrogen atmosphere. Subsequently, 1.18 g (3.57 mmol) of 6,6-di-2-naphthylfulvene dissolved in 30 ml of tetrahydrofuran in advance was gradually added over 30 minutes while cooling the mixture in a methanol/dry ice bath. The mixture was gradually warmed to room temperature, and stirred for 20 hours at room temperature under a nitrogen atmosphere. Then, 100 ml of 1 N hydrochloric acid was gradually added, and subsequently 100 ml of diethyl ether was added. The two-layered solution thus obtained was transferred to a 300-ml separatory funnel and the funnel was shaken several times. The aqueous layer was then removed. Subsequently, the organic layer obtained was washed 2 times with 100 ml of water and once with 100 ml of saturated brine, and dried over anhydrous magnesium sulfate for 3 hours. The solids were separated by filtration, and the solvent was distilled off. The residue was purified by separation using silica gel chromatography to obtain a target product (yield 1.28 g (51%)). The target product was identified by 1H-NMR and FD-MS spectroscopy.

reactant | octamethyloctahydrodibenzofluorene | 3.48 mmol, 1.35 g | CC1(C(C(C(C=2C1C1C(=C3C=4C=CC=CC4CC23)C=CCC1)(C)C)(C)C)(C)C)C | C29H38
reactant | n-butyllithium hexane | 1.58 mol/l | C(CCC)[Li].CCCCCC
reactant | 6,6-di-2-naphthylfulvene | 3.57 mmol, 1.18 g | C1=C(C=CC2=CC=CC=C12)C(=C1C=CC=C1)C1=CC2=CC=CC=C2C=C1 | C26H18
reactant | hydrochloric acid | 1 N, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | di-2-naphthyl(cyclopentadienyl)(octamethyloctahydrodibenzofluorenyl)methane | C1=C(C=CC2=CC=CC=C12)C(C1(C(C(C(C2(C3C(=C4C=5C=CC=CC5CC4=C21)C=CCC3)C)(C)C)(C)C)(C)C)C)(C3C=CC=C3)C3=CC2=CC=CC=C2C=C3 | C55H56
